US06518423B1
(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)carboxamide
1.04 g of (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)carboxylic acid was dissolved in a mixture of dichloromethane (20 ml) with tetrahydrofuran (20 ml) in a nitrogen atmosphere. Under ice-cooling, 1.04 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 200 mg of 1-hydroxybenzotriazole were added thereto and the resulting mixture was stirred at room temperature for 30 minutes. After blowing ammonia gas thereinto, the reaction mixture was distributed into an aqueous solution of sodium bicarbonate and ethyl acetate. The organic layer was extracted, washed with water and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the crystals thus precipitated were filtered. Further, the aqueous layer was acidified and the starting materials were recovered. After repeating the above-mentioned procedures, the title compound (620 mg in total) was obtained as yellow crystals.

reactant | (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)carboxylic acid | 1.04 g | COCN1C2=C(SC3=C1C=C(C=C3)C(=O)O)N=CC=N2 | C13H11N3O3S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.04 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 200 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonia | N | H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)carboxamide | 620 mg | COCN1C2=C(SC3=C1C=C(C=C3)C(=O)N)N=CC=N2 | C13H12N4O2S
